US09376422B2
Step 2: Synthesis of methyl 5-chloro-3-(cyclobutyl(methyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-chloro-3-(cyclobutylamino)-2-methylbenzoate (0.7 g, 2.8 mmol) in acetonitrile-(10 mL), cesium carbonate (2.2 g, 6.8 mmol) and methyl iodide (3.9 g, 28 mmol) were added. The resulting reaction mass was heated at 80° C. for 8 h. On completion, the reaction mass was cooled to room temperature and filtered. The residue was washed with ethyl acetate and the filtrate was concentrated to give the title compound (0.62 g, 84%).

reactant | methyl 5-chloro-3-(cyclobutylamino)-2-methylbenzoate | 2.8 mmol, 0.7 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCC1 | C13H16ClNO2
reactant | cesium carbonate | 6.8 mmol, 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 28 mmol, 3.9 g | CI | CH3I
solvent | acetonitrile- | 10 mL | C(C)#N | C2H3N
product | methyl 5-chloro-3-(cyclobutyl(methyl)amino)-2-methylbenzoate | 0.62 g, 84% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C)C1CCC1 | C14H18ClNO2
